US05061794
Preparation of 7β-amino-3-[5-(3,4-dihydroxyphenyl)-1,3,4-oxadiazol-2-yl]thiomethyl-3-cephem-4-carboxylic acid
To 520 ml of acetonitrile 16.3 g (60 mmol) of 7β-aminocephalosporanic acid and 13.9 g (66 mmol) of 2-mercapto-5-(3,4-dihydroxyphenyl)-1,3,4-oxadiazole and 45.4 ml (360 mmol) of boron trifluoride diethyl etherate were added, and stirred at 50° C. for 3 hours. The reaction solution was cooled and poured into 450 ml of cold water. The mixture was stirred at room temperature for 1 hour and adjusted to pH2.0 with a 25% aqueous ammonia. The mixture was stirred at not more than 5° C. for 1 hour, and the precipitates were collected by filtration. The precipitates were washed with water and ethyl acetate and dried to obtain 21.3 g (yield: 84.1%) of the above identified compound.

reactant | acetonitrile | 60 mmol, 520 ml, 16.3 g | C(C)#N | C2H3N
reactant | 7β-aminocephalosporanic acid | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | 2-mercapto-5-(3,4-dihydroxyphenyl)-1,3,4-oxadiazole | 66 mmol, 13.9 g | SC=1OC(=NN1)C1=CC(=C(C=C1)O)O | C8H6N2O3S
reactant | boron trifluoride diethyl etherate | 360 mmol, 45.4 ml | B(F)(F)F.CCOCC
reactant | ammonia | N | H3N
solvent | water | 450 ml | O | H2O
product | 7β-amino-3-[5-(3,4-dihydroxyphenyl)-1,3,4-oxadiazol-2-yl]thiomethyl-3-cephem-4-carboxylic acid | yield: 84.1% | N[C@H]1[C@@H]2N(C(=C(CS2)CSC=2OC(=NN2)C2=CC(=C(C=C2)O)O)C(=O)O)C1=O | C16H14N4O6S2
